US06005116
(a) 2.4-Difluorocinnamic acid ethyl ester
2,4-Difluorocinnamic acid (10.1 g) was dissolved in ethanol (100 ml), and conc. sulfuric acid (1 ml) was added thereto, and the resulting mixture was refluxed for 3 hours. The solvent was evaporated under reduced pressure and the residue was poured into ice-cold water and extracted with ethyl acetate. The extract was washed successively with 5% aqueous sodium hydrogencarbonate and a saturated aqueous NaCl solution, and the organic layer was dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure to obtain the title compound (11.2 g, 97%) as a colorless oil.

reactant | 2,4-Difluorocinnamic acid | 10.1 g | FC1=C(C=CC(=O)O)C=CC(=C1)F | C9H6F2O2
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 2.4-Difluorocinnamic acid ethyl ester | 11.2 g, 97% | C(C)OC(C=CC1=C(C=C(C=C1)F)F)=O | C11H10F2O2
